US07335660B2
A mixture of 6-bromo-1H,3H-naphtho[1,8-cd]pyran (0.30 g, 1.2 mmol), 2-(R)-methylpiperazine (0.145 g, 1.44 mmol), tris(dibenzylideneacetone)dipalladium(0) (55 mg, 0.06 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (56 mg, 0.09 mmol) and sodium tert-butoxide (0.162 g, 1.68 mmol) in toluene (5 mL) was heated under reflux for 2 h. The solvent was evaporated in vacuo and the crude mixture purified by column chromatography on silica gel, eluting with dichloromethane/methanol (9:1), to yield (3R)-3-methyl-1-(1H,3H-naphtho[1,8-cd]pyran-6-yl)piperazine as an orange solid.

reactant | 6-bromo-1H,3H-naphtho[1,8-cd]pyran | 1.2 mmol, 0.30 g | BrC=1C=CC=2COCC=3C2C1C=CC3 | C12H9BrO
reactant | 2-(R)-methylpiperazine | 1.44 mmol, 0.145 g | C[C@H]1NCCNC1 | C5H12N2
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.09 mmol, 56 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 1.68 mmol, 0.162 g | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.06 mmol, 55 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (3R)-3-methyl-1-(1H,3H-naphtho[1,8-cd]pyran-6-yl)piperazine | C[C@@H]1CN(CCN1)C=1C=CC=2COCC=3C2C1C=CC3 | C17H20N2O
